US07078414B2
10 mL (137 mmol) of sulphinyl chloride are added at a temperature in the region of 20° C. under an argon atmosphere to 1.1 g (4.36 mmol) of 3-carboxy-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole dissolved in 20 mL of chloroform. After stirring at the reflux point of the solvent for 2 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is dissolved in 20 mL of chloroform and is then brought back to dryness to give 1.18 g (4.36 mmol) of 3-chlorocarbonyl-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole in the form of a beige-coloured solid which is used directly in the following step.

reactant | sulphinyl chloride | 137 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-carboxy-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole | 4.36 mmol, 1.1 g | C(=O)(O)C1=CN(C=C1C)C1=NC=CC2=CC=CC=C12 | C15H12N2O2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-chlorocarbonyl-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole | 4.36 mmol, 1.18 g | ClC(=O)C1=CN(C=C1C)C1=NC=CC2=CC=CC=C12 | C15H11ClN2O
